US06133273
3-Butyl-1-(3-methyl-butyl)-6-methyluracil
To 5.0 g (27 mmol) of 3-butyl-6-methyluracil in 100 mL of acetone was added 14.9 g (108 mmol) of K2CO3 followed by 4.07 g (27 mmol) of 1-bromo-3-methyl butane. The resulting mixture was refluxed for 48 h. After cooling to 23° C., the reaction mixtyre was filtered and evaporated to give the 8.2 g (24 mmol, a 91% yield) of the title compound as a yellow oil. Yield 91%.; 1H NMR (300 MHz, CDCl3); δ 0.91-0.98 (m, 6H), 1.25 (s, 3H), 1.32-1.40 (m, 2H), 1.48-1.80 (m, 5H), 2.15 (s, 3H), 3.67-3.83 (m, 2H), 3.88-3.96 (m, 2H) 5.57 (s, 1H); IR (KBr, cm31 1): 3476w, 2958w, 2933w, 2872m, 1701s, 1538m, 1432m, 1364m; MS (ES) m/z (relative intensity): 253 (M+ +H).

reactant | 3-butyl-6-methyluracil | 27 mmol, 5.0 g | C(CCC)N1C(NC(=CC1=O)C)=O | C9H14N2O2
reactant | K2CO3 | 108 mmol, 14.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-bromo-3-methyl butane | 27 mmol, 4.07 g | BrCCC(C)C | C5H11Br
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 3-Butyl-1-(3-methyl-butyl)-6-methyluracil | 91% yield | C(CCC)N1C(N(C(=CC1=O)C)CCC(C)C)=O | C14H24N2O2
